US04533731
The same procedures for preparing 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole as described in Example 89 were repeated except that 8 g of 3-phthalimidoindazole and 8.6 g of (1-methyl-3-bromopropyl)dimethylamine hydrobromide were employed instead of the 3-phthalimido-4-chloroindazole and the 3-bromopropyldiethylamine hydrobromide, respectively. As a result, 9.2 g of 1-(3-dimethylaminobutyl)-3-aminoindazole was obtained.

reactant | 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole | C(C)N(CCCN1N=C(C2=C(C=CC=C12)Cl)N)CC | C14H21ClN4
reactant | 3-phthalimidoindazole | 8 g | C1(C=2C(C(N1C1=NNC3=CC=CC=C13)=O)=CC=CC2)=O | C15H9N3O2
reactant | (1-methyl-3-bromopropyl)dimethylamine hydrobromide | 8.6 g | Br.CC(CCBr)N(C)C
reactant | 3-phthalimido-4-chloroindazole | C1(C=2C(C(N1C1=NNC3=CC=CC(=C13)Cl)=O)=CC=CC2)=O | C15H8ClN3O2
reactant | 3-bromopropyldiethylamine hydrobromide | Br.BrCCCN(CC)CC
product | 1-(3-dimethylaminobutyl)-3-aminoindazole | 9.2 g | CN(C(CCN1N=C(C2=CC=CC=C12)N)C)C | C13H20N4
